US06399641B1
2,2-Diphenyl-N-[2-(2,2,2-trifluoro-ethyl)-2H-tetrazol-5-yl]-acetamide
The title compound, white solid, m.p. 146-148 and MS: (neg. ions): m/e=360.0 (M+−H) was prepared in accordance with the general method of example 1 from 5-amino-2-(2,2,2-trifluoroethyl)-2H-tetrazole and diphenylacetyl chloride.

reactant | 5-amino-2-(2,2,2-trifluoroethyl)-2H-tetrazole | NC=1N=NN(N1)CC(F)(F)F | C3H4F3N5
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
product | 2,2-Diphenyl-N-[2-(2,2,2-trifluoro-ethyl)-2H-tetrazol-5-yl]-acetamide | C1(=CC=CC=C1)C(C(=O)NC=1N=NN(N1)CC(F)(F)F)C1=CC=CC=C1 | C17H14F3N5O
